US04477556
Preparation of 2-nitro-4,5-dimethoxybenzyl chloride
570 g of 2-nitro-4,5-dimethoxybenzyl alcohol was added over 1 hour to 733 ml of thionyl chloride at 0° C. The solution was heated to 25° C. over 2 hours and to 50°-56° C. for 2 hours. The solution was cooled to 5° C. and the mixture was poured onto 12 l of ice water with stirring. The supernatant was poured off and the solid washed with water. The oily solid was blended with ice and water, filtered, and dried in a 40° C. vacuum oven to yield 535 g, 86.4% yield.

reactant | 2-nitro-4,5-dimethoxybenzyl alcohol | 570 g | [N+](=O)([O-])C1=C(CO)C=C(C(=C1)OC)OC | C9H11NO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-nitro-4,5-dimethoxybenzyl chloride | 86.4% yield | [N+](=O)([O-])C1=C(CCl)C=C(C(=C1)OC)OC | C9H10ClNO4
